Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
foot pain
 
Major Surgical or Invasive Procedure:
___ - debridement, podiatry
___- right ___ toe amputation
___- Right ___ toe closure

 
History of Present Illness:
___ w/ hx afib on eliquis, T2DM, HTN, CKD3, hep C s/p treatment,
OSA p/w right foot plantar ulcer w/ concern for infection. 

Patient has  hx of right foot dorsal ulcer.  2 days ago 
developed
pain of dorsal foot radiating to ankle a/w erythema/edema
progressing over days.

C/o fevers to 100.9F at home, chills, decreased PO intake,
dizziness with urination. No nausea/vomiting. No syncope. Has
taken oxycodone 5mg and Tylenol for the pain without relief. 

ED contacted podiatry.  Per podiatry, wound looks infected w/
periph edema, streaking, odor, tender to palp.  Patient will
neeed formal washout in the OR and IV abx.  Patient has been
tentatively added on for the OR on ___ for an I&D. Likely will
need eliquis held.  Rec NPO at MN.  IV abx.

I reviewed VS, meds, labs, orders, imaging, old records, EKG.

VS - afebrile, HR 90 max, RR 20 max, max BP 167/92.   

On imaging of right foot, xray showed no fx or erosions, does
show DJD, ___ toe PIP amputation, subcutaneous gas over plantar
foot at the bases of ___ digits, correlated with ulcer site.

Labs reviewed.  Mild thrombocytosis plt 130, left shift with abs
neutrophilia.  Cr 1.0 currently.  BCx x2 pending.  Creatinine
baseline is 1.3.  

Patient is s/p IV dilaudid, vanc 1g @ 1332, amp/sulbactam 3g @
1507, LR 150 cc/h.

I reviewed outpt notes - had spoken to his orthopedist on day of
admit - the patient had tried to return to work last week but
foot became more painful and he was not able to bear weight.  He
was noting pain, swelling, and discharge.
 
Past Medical History:
 Atrial fibrillation 
   Neuropathy, peripheral 
  Obesity 
  Leukocytoclastic vasculitis likely ___ Hep C 
 Chronic pain 
   CKD (chronic kidney disease) stage 3
  Chronic hepatitis C without hepatic coma - apparent cure 
  Chronic gout of foot 
 Type 2 diabetes mellitus without complication, with long-term
current use of insulin 
  Lattice degeneration of left retina 
  OSA (obstructive sleep apnea) 
PVD w/ severe tibial disease
charcot arthropathy
plantar foot ulcer right

amputation of ___ toe, left foot d/t osteomyelitis
arthroplasty ___ toe for hammertoe, was later amputated due to
ischemia
 
Social History:
___
Family History:
Mother Alive ___ - Type II 
Sister Alive ___ - Type II 
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Right third toe with second PIP amputation, left second toe
amputation
SKIN: Right foot ulcer with associated swelling discharge and
odor
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Exam on discharge:
VS: 97.9 HR: 170/84 HR: 61 18 92 RA  
GENERAL: Alert and in no apparent distress
EYES: Anicteric
CV: RRR, no murmur, no S3, no S4.  No JVD.
RESP: Clear B/L on auscultation, good air entry
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK:s/p multiple toe amputations. 
SKIN: Right surgical scar- currently with dressing that is 
C/d/I.

 
Pertinent Results:
___ 01:00PM   GLUCOSE-95 UREA N-16 CREAT-1.0 SODIUM-139 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-27 ANION GAP-12
___ 01:00PM   WBC-9.2 RBC-4.70 HGB-14.4 HCT-44.0 MCV-94 
MCH-30.6 MCHC-32.7 RDW-13.5 RDWSD-46.2
___ 01:00PM   NEUTS-78.9* LYMPHS-10.1* MONOS-9.7 EOS-0.8* 
BASOS-0.2 IM ___ AbsNeut-7.28* AbsLymp-0.93* AbsMono-0.89* 
AbsEos-0.07 AbsBaso-0.02

CT ___
IMPRESSION: 
1. Patient is status post plantar surface of third and fourth 
interphalangeal 
space debridement with adjacent soft tissue swelling, edema, and 
foci of air 
tracking along the plantar surface and fourth metatarsal. 
Unclear if findings 
represent infection or changes from debridement. 
2. Degenerative changes at the head of the third metatarsal and 
cuneiforms 
appear chronic in nature.

CXR: ___
IMPRESSION:  
 No previous images.  The cardiac silhouette is within normal 
limits.  
Indistinctness of engorged pulmonary vessels is consistent with 
elevated 
pulmonary venous pressure.  Bibasilar opacifications most likely 
represent 
atelectatic changes.  No definite acute focal consolidation. 

TTE ___
Suboptimal image quality. Mildly dilated ascending aorta. Mild 
symmetric LVH with normal cavity size and global biventricular 
systolic function. NO vavluar pathology or pathologic flow 
identified.  

MICRO: 
___ 1:25 pm TISSUE     Site: TOE      RIGHT ___ TOE BONE. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary): 
      Susceptibility testing requested per ___ ___ 
___. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH. 
         COAG NEG STAPH does NOT require contact precautions, 
regardless of
         resistance Oxacillin RESISTANT Staphylococci MUST be 
reported as
         also RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH. 
         SECOND MORPHOLOGY. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |          STAPHYLOCOCCUS, 
COAGULASE NEGATIVE
                             |          |   
CLINDAMYCIN-----------<=0.25 S   <=0.25 S
ERYTHROMYCIN----------<=0.25 S   <=0.25 S
GENTAMICIN------------ <=0.5 S    <=0.5 S
LEVOFLOXACIN----------     4 R     0.25 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S      <=1 S
VANCOMYCIN------------     1 S    <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

___ 1:17 pm SWAB     Site: FOOT      RIGHT FOOT FLUID SWAB. 


                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      VIRIDANS STREPTOCOCCI.    RARE GROWTH. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH. 
         Susceptibility testing performed on culture # ___ 
___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 7:25 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

 
Brief Hospital Course:
___ w/ hx afib on eliquis, T2DM w/ peripheral neuropathy w/ 
chronic right foot ulcer/charcot arthropathy/toe amputations, 
PVD, HTN, gout, CKD3, hep C s/p treatment, OSA p/w right foot 
infection and concern for sepsis.

#Right foot infection with concern for aggressive infection
#Sepsis
#PVD
The patient presented with right foot pain and concern for 
aggressive infection. He was seen by podiatry and underwent 
debridement on ___. He was started on broad spectrum 
antibiotics (Vanco ___ Zosyn ___ Clinda 
___.  He went to the OR for ___ toe amputation on ___ 
and the wound was ultimately closed on ___. The patient was 
also seen by vascular surgery and had an angiogram which showed 
adequate flow to the foot for wound healing. He will follow with 
vascular surgery as an outpatient. He was followed by the ID 
service who recommended treatment for osteomyelitis. Based on 
his culture data, he was discharged on Daptomycin 650mg daily 
and ertapenem 1mg daily with a planned 6 week course. He will 
follow up with ___ clinic. He will remain non-weightbearing to 
his right foot and has follow up scheduled with podiatry. He 
should have daily betadine dressing changes. The patient was 
provided a prescription for oxycodone for pain on discharge. PMP 
was reviewed and he was counseled on risks of opiate use. 

# Afib with RVR
#?Junctional rhythm
On ___ noted to have wide complex rhythm on telemetry. 
Cardiology was consulted and it was felt that this rhythm 
represents conversion from Afib to wide rhythm to sinus. ___ be 
exacerbated by increased burden of afib in setting of infection 
and high dose of Sotalol.  Sotalol was discontinued. The patient 
had an episode of afib with RVR requiring IV metoprolol and Iv 
diltiazem. He then converted to sinus rhythm and remains in 
sinus rhythm on discharge. HIs Elequis was held for procedures 
and he was bridged with heparin per cardiology recommendations 
given CHADS2=2 CHADS2vAsc=3 and low risk of bleeding. The 
patients Elequis was resumed prior to discharge. ASA was 
discontinued. 

#HTN
The patient was initially hypotensive in the setting of sepsis. 
With improvement in infection, his BP improved and his home 
medicaitons were resumed. 

#Mild thrombocytopenia
Patient with thrombocytopenia in setting of sepsis. Should have 
repeat CBC at PCP follow up. 

#CKD stage 3, at baseline now
Creatine stable at 0.9 on discharge. 

#T2DM w/ peripheral neuropathy w/ chronic right foot ulcer
FSBS well controlled on Lantus alone. The patient will be 
discharged on reduced dose lantus but advised to follow his 
sugars and increase Lantus at home if sugars remain elevated.

#gout
Continued home allopurinol

#OSA
Should have outpatient sleep study

Transitonal issues:
- Sotalol and ASA discontinued- patient to follow up with his 
cardiologist
- Outpateint follow up with podiatry, 
- ERTAPEMEN: WEEKLY: CBC with differential, BUN, Cr, AST, ALT,
Total Bili, ALK PHOS, CRP
DAPTOMYCIN: WEEKLY: CBC with differential, BUN, Cr, CPK
- Discharged on lower dose Lantus- please trend sugars and 
increase to home dose if sugars elevated
- Patient provided with limited script of increased dose of 
Oxycodone in setting of post-surgical pain. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN BREAKTHROUGH 
PAIN 
2. Allopurinol ___ mg PO DAILY 
3. clomiPHENE citrate 50 mg oral ___ 
4. Atorvastatin 10 mg PO QPM 
5. zaleplon 5 mg oral QHS:PRN 
6. Lisinopril 5 mg PO DAILY 
7. Bumetanide 0.5 mg PO DAILY 
8. Apixaban 5 mg PO BID 
9. Sotalol 160 mg PO DAILY 
10. Metoprolol Tartrate 50 mg PO BID 
11. Aspirin 81 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Glargine 30 Units Bedtime

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right toe osteomyelitis
Sepsis
Atrial fibrillation with rapid rate

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid 
(crutches)

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with an infection of your right ___ 
toe. You were seen by the podiatry team and had an amputation of 
your ___ toe. You will continue daily dressing changes. The 
vascular surgeons did testing that showed you have adequate 
blood flow to your foot. We have scheduled outpatient follow up 
with the vascular surgery team. You were seen by the infectious 
disease doctors and they recommended long term intravenous 
antibiotics to treat a possible bone infection. You had a PICC 
line placed for these antibiotics. It is important that you do 
not put weight on your right foot. You have been prescribed an 
increased dose of your oxycodone. Opiate pain medications can 
cause constipation, respiratory depression, can be addictive and 
can cause death. It is important that you take the lowest 
effective dose for the shortest time possible.

While you were in the hospital, you also had an abnormal heart 
rhythm. You had an ultrasound of your heart (Echo) which showed 
normal cardiac function. Your sotalol was stopped. You should 
follow up with your cardiologist.

We wish you the best,
Your ___ Care Team

 
Followup Instructions:
___